US08080566B1
A 500-mL round-bottomed flask was charged with 3-bromo-6,7,8,9-tetrahydro-5H-carbazole (5 g, 20.08 mmol, 1.00 equiv) in N,N-dimethylformamide (270 mL). To this solution was added sodium hydride (1.2 g, 30.00 mmol, 1.50 equiv, 60%) in several batches at −10° C., followed by addition of iodoethane (6.26 g, 40.13 mmol, 2.00 equiv) as a solution in N,N-dimethylformamide (30 mL) drop wise −10° C. The resulting mixture was stirred at room temperature for 30 minutes. The reaction progress was monitored by TLC (EtOAc:PE=1:1). Upon completion, the reaction was then quenched by the addition of water/ice (120 mL). Then, the mixture was extracted with ethyl acetate (4×80 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered off and concentrated on a rotary evaporator. The residue was purified by a silica gel column chromatography eluted with ethyl acetate/petroleum ether (1/20) affording 3-bromo-9-ethyl-6,7,8,9-tetrahydro-5H-carbazole as brown oil (5 g, 90%).

reactant | 3-bromo-6,7,8,9-tetrahydro-5H-carbazole | 20.08 mmol, 5 g, 1.00 equiv | BrC=1C=CC=2NC=3CCCCC3C2C1 | C12H12BrN
reactant | sodium hydride | 30.00 mmol, 1.2 g, 1.50 equiv | [H-].[Na+]
reactant | iodoethane | 40.13 mmol, 6.26 g, 2.00 equiv | ICC | C2H5I
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | N,N-dimethylformamide | 270 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 3-bromo-9-ethyl-6,7,8,9-tetrahydro-5H-carbazole | 5 g, 90% | BrC=1C=CC=2N(C=3CCCCC3C2C1)CC | C14H16BrN
